US04349552
A solution of 5-fluorouracil (2.6 g.) in N,N-dimethylacetoamide (10 ml.) was added to oily 2-tetrahydrothiophenyl isocyanate (3.1 g.). The mixture was stirred at 50° C. for 8 hours and concentrated in vacuo. The residue was treated with water (80 ml.) to give crystalline precipitates, which were collected by filtration and dried over phosphoric anhydride to give 1-[N-(2-tetrahydrothienyl)carbamoyl]-5-fluorouracil (3.68 g.); pale yellow crystalline powder.

reactant | 5-fluorouracil | 2.6 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 2-tetrahydrothiophenyl isocyanate | 3.1 g | S1C(CCC1)N=C=O | C5H7NOS
solvent | N,N-dimethylacetoamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 1-[N-(2-tetrahydrothienyl)carbamoyl]-5-fluorouracil | 3.68 g | S1C(CCC1)NC(=O)N1C(=O)NC(=O)C(=C1)F | C9H10FN3O3S
